US08114872B2
2-(2-(4-Methyl-1H-1,2,3-triazol-1-yl)ethyl) isoindoline-1,3-dione
Stir a mixture of 2-(2-(4-(iodomethyl)-1H-1,2,3-triazol-1-yl)ethyl) isoindoline-1,3-dione (1 g, 2.62 mmol) and 0.2 g of 10% palladium on carbon in ethanol (10 mL) under a hydrogen balloon overnight. Filter to remove the solid and concentrate. Purify by column chromatography (DCM to 20% ethyl acetate in DCM) to afford the title compound as a yellow solid (0.5 g, 74%). MS (EI) m/z 257 [M+1]+.

reactant | 2-(2-(4-(iodomethyl)-1H-1,2,3-triazol-1-yl)ethyl) isoindoline-1,3-dione | 2.62 mmol, 1 g | ICC=1N=NN(C1)CCN1C(C2=CC=CC=C2C1=O)=O | C13H11IN4O2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(2-(4-Methyl-1H-1,2,3-triazol-1-yl)ethyl) isoindoline-1,3-dione | 0.5 g, 74% | CC=1N=NN(C1)CCN1C(C2=CC=CC=C2C1=O)=O | C13H12N4O2
